US09085583B2
To a solution of 1-(1-phenylethyl)-1H-indazole-3-carboxylic acid (0.3 g, 1.12 mmol) in anhydrous dichloromethane (20 mL) was added 1H-benzo[d][1,2,3]triazol-1-ol (0.14 g, 1.0 mmol), 1-ethyl-3-(3-dimethyllaminopropyl)carbodiimide hydrochloride (0.26 g, 1.37 mmol) and triethylamine (0.184 g, 1.83 mmol). The mixture was stirred at room temperature for 0.5 hours, and 3-(aminomethyl)-4,6-dimethylpyridin-2-ol (0.15 g, 1.0 mmol) was added. The mixture was stirred at room temperature for 3 hours. To the reaction mixture was added water (50 mL), and the mixture was extracted with dichloromethane (20 mL×3). The organic phase was combined, dried over anhydrous sodium sulfate, filtered and concentrated to give a residue. The residue was purified by column chromatography (silica gel, dichloromethane/methanol=50:1) to give N-((2-hydroxy-4,6-dimethylpyridin-3-yl)methyl)-1-(1-phenylethyl)-1H-indazole-3-carboxamide (70 mg, 18%). LRMS (M+H+) m/z: calcd. 400.47. found 400. 1H NMR (300 MHz, d6-DMSO): δ 11.59 (s, 1H), 8.24 (s, 1H), 8.16 (d, J=8.1 Hz, 1H), 7.68 (d, J=8.6 Hz, 1H), 7.52-7.33 (m, 1H), 7.30-7.06 (m, 6H), 6.13 (d, J=7.0 Hz, 1H), 5.89 (s, 1H), 4.41-4.37 (m, 2H), 2.26 (s, 3H), 2.12 (s, 3H), 1.94 (d, J=7.0 Hz, 3H).

reactant | 1-(1-phenylethyl)-1H-indazole-3-carboxylic acid | 1.12 mmol, 0.3 g | C1(=CC=CC=C1)C(C)N1N=C(C2=CC=CC=C12)C(=O)O | C16H14N2O2
reactant | 1H-benzo[d][1,2,3]triazol-1-ol | 1.0 mmol, 0.14 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | triethylamine | 1.83 mmol, 0.184 g | C(C)N(CC)CC | C6H15N
reactant | 3-(aminomethyl)-4,6-dimethylpyridin-2-ol | 1.0 mmol, 0.15 g | NCC=1C(=NC(=CC1C)C)O | C8H12N2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | N-((2-hydroxy-4,6-dimethylpyridin-3-yl)methyl)-1-(1-phenylethyl)-1H-indazole-3-carboxamide | 70 mg, 18% | OC1=NC(=CC(=C1CNC(=O)C1=NN(C2=CC=CC=C12)C(C)C1=CC=CC=C1)C)C | C24H24N4O2
